US06670372B2
N4-(2-Phenoxyethyl)quinoline-3,4-diamine (1.5 g, 5.4 mmol) and isovaleryl chloride (0.8 ml, 6.4 mmol) were combined and treated according to the general procedures of Parts C-E of Example 129. The resulting product, 2-isobutyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinoline-5N-oxide (1.6 g, 4.5 mmol) was dissolved in dichloromethane (200 ml) and ammonium hydroxide (50 ml) was added. The reaction was chilled (ice bath) and p-toluenesulfonyl chloride (0.85 g, 4.5 mmol) was slowly added over a period of 20 minutes. The cooling bath was removed and the reaction was maintained at ambient temperature overnight. The phases were separated and the organic phase was sequentially washed with I% aqueous sodium carbonate (3×), water, brine; dried (Na2SO4); and concentrated to near dryness in vacuo. Hexane was added to provide a precipitate. The solid was collected and purified by recrystallization from acetonitrile to yield 0.96 g of 2-isobutyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine as a tan powder, m.p. 176.6-177.8° C.

reactant | N4-(2-Phenoxyethyl)quinoline-3,4-diamine | 5.4 mmol, 1.5 g | O(C1=CC=CC=C1)CCNC1=C(C=NC2=CC=CC=C12)N | C17H17N3O
reactant | isovaleryl chloride | 6.4 mmol, 0.8 ml | C(CC(C)C)(=O)Cl | C5H9ClO
reactant | ammonium hydroxide | 50 ml | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 4.5 mmol, 0.85 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-isobutyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-4-amine | 0.96 g | C(C(C)C)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCOC1=CC=CC=C1 | C22H24N4O
